US04822805
To a solution of 1-hydroxy-2-(3-methoxy-4-methylthiophenyl)-4-methyl-5-(3-pyridyl)imidazole (0.98 g) in N,N-dimethylformamide (10 ml) was added triethyl phosphite (1.03 ml), and the mixture was stirred at 90° C. for 3 hours. Then the solution was poured into water (60 ml) and stirred at ambient temperature for an hour. The resulting precipitates were filtered, washed with water, and recrystallized from ethanol (6 ml) to give 2-(3-methoxy-4-methylthiophenyl)-4-methyl-5-(3-pyridyl)imidazole (0.58 g).

reactant | 1-hydroxy-2-(3-methoxy-4-methylthiophenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.98 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=CC(=C(C=C1)SC)OC | C17H17N3O2S
reactant | triethyl phosphite | 1.03 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | water | 60 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(3-methoxy-4-methylthiophenyl)-4-methyl-5-(3-pyridyl)imidazole | 0.58 g | COC=1C=C(C=CC1SC)C=1NC(=C(N1)C)C=1C=NC=CC1 | C17H17N3OS
